US09102688B2
General Procedure 101: 5-bromo-8-nitroquinoline (Intermediate 470)
KNO3 (1.58 g, 15.6 mmol) was added portionwise to a solution of 5-bromoquinoline (2.0 g, 12.0 mmol) conc.H2SO4 (7.5 ml) at 0° C. and the mixture was stirred at room temperature for 16 h. The mixture was poured onto ice and the resulting solid was extracted into DCM. The organic phase was washed with brine, dried (Na2SO4) and concentrated in vacuo to give the title compound (2.8 g, 92%) which was used in the next step without further purification.

reactant | KNO3 | 15.6 mmol, 1.58 g | [N+](=O)([O-])[O-].[K+]
reactant | 5-bromoquinoline | 12.0 mmol, 2.0 g | BrC1=C2C=CC=NC2=CC=C1 | C9H6BrN
reactant | H2SO4 | 7.5 ml | OS(=O)(=O)O | H2O4S
product | 5-bromo-8-nitroquinoline | 2.8 g, 92% | BrC1=C2C=CC=NC2=C(C=C1)[N+](=O)[O-] | C9H5BrN2O2
